US05241021
Bisphenol A Adduct
Diethanolamine (525.70 grams, 5.00 amine hydrogen equivalents) is added to a 2 liter glass reactor equipped with a mechanical stirrer, chilled water condenser, nitrogen inlet, thermostatically controlled heating mantle, thermometer, and an inlet tube for the diglycidyl ether of bisphenol A. The diethanolamine is heated to 70° C. under a stream of nitrogen flowing at 1 liter per minute, then stirring commenced. A peristaltic pump is started to add diglycidyl ether of bisphenol A (179.95 epoxide equivalent weight (EEW)) to the reactor at a rate of 1.62 gram per minute. During the course of this addition, the temperature is maintained between 70° C. and 71° C.. After a total of 899.75 grams (5.00 epoxide equivalents) of the diglycidyl ether of bisphenol A is added to the reactor, post reaction is completed for 3 hours at 75° C., 12 hours at 90° C., then 2 hours at 150° C.. The adduct is recovered as a transparent tacky solid (at 25° C.) with a hydroxyl content of 17.2 percent.

reactant | Diethanolamine | 525.70 grams | N(CCO)CCO | C4H11NO2
reactant | diglycidyl ether of bisphenol A | CC(C)(C1=CC=C(C=C1)OCC2CO2)C3=CC=C(C=C3)OCC4CO4 | C21H24O4
reactant | diglycidyl ether of bisphenol A | 899.75 grams | CC(C)(C1=CC=C(C=C1)OCC2CO2)C3=CC=C(C=C3)OCC4CO4 | C21H24O4
product | Bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
